US04186199
A rapidly stirred solution of 52.65 g of 1-[2-(3-phenyl-1-oxo-propyl)aminophenyl]indoline in 200 ml POCl3 under N2 is slowly brought to 105°-115° C. After 9.5 hours, the mixture is permitted to cool to room temperature for over 48 hours. The excess POCl3 is distilled at aspirator pressure (bath temperature 55°-60° C.) to yield a solid which is triturated with hexane, filtered, washed with additional hexane, and dried at room temperature under high vacuum to yield 1,2-dihydro-6-(2-phenylethyl)-indolo[1,7-ab][1,5]benzodiazepine hydrochloride, m.p. 181.5°-183.0° C.

reactant | 1-[2-(3-phenyl-1-oxo-propyl)aminophenyl]indoline | 52.65 g | C1(=CC=CC=C1)CCC(=O)NC1=C(C=CC=C1)N1CCC2=CC=CC=C12 | C23H22N2O
reactant | POCl3 | 200 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1,2-dihydro-6-(2-phenylethyl)-indolo[1,7-ab][1,5]benzodiazepine hydrochloride | Cl.C1(=CC=CC=C1)CCC=1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | InChI=1S/C23H20N2.ClH/c1-2-7-17(8-3-1)13-14-20-19-10-6-9-18-15-16-25(23(18)19)22-12-5-4-11-21(22)24-20;/h1-12H,13-16H2;1H
